US06919342B2
b.2 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-tert-butyl-pyrimidine
40 g of 2-tert-butyl-4-[piperazin-1-yl]-6-tert-butyl-pyrimidine and 45.6 g of 1-bromo-3-chloro-propane were dissolved in 160 ml toluene. 13.3 g of 50% aqueous sodium hydroxide and 2.3 g of tetrabutylammonium bromide (dissolved in 40 ml water) were added. The mixture was kept at 50° C. for 5 h under vigorous stirring. The reaction mixture was then extracted with water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and the solvent was evaporated. The product was purified by chromatography on silicagel (cyclohexane/0-10% ethyl acetate) to yield the title compound in 82% yield.

reactant | 2-tert-butyl-4-[piperazin-1-yl]-6-tert-butyl-pyrimidine | 40 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C(C)(C)C | C16H28N4
reactant | 1-bromo-3-chloro-propane | 45.6 g | BrCCCCl | C3H6BrCl
reactant | sodium hydroxide | 13.3 g | [OH-].[Na+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 40 ml, 2.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-tert-butyl-pyrimidine | 82% yield | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C(C)(C)C | C19H33ClN4
